US06586429B2
To a stirring mixture of (R)-8-(2-chloroethylamino)-1-(5-hydroxyhexyl)-3-methylxanthine (2.2 g, 6.4 mmol), triethylamine (1.94 g, 19.2 mmol) and 4-dimethylaminopyridine (0.39 g, 3.2 mmol) in chloroform (50 ml) at 0-5° C. was added acetic anhydride (1.30 g, 12.8 mmol). The mixture was warmed to room temperature, stirred overnight, and concentrated under reduced pressure. The residue was purified by column chromatography eluting with ethylacetate-methanol (7:1) to provide (R)-1-(5-acetoxyhexyl)-8-(2-chloroethylamino)-3-methylxanthine (2.2 g, 89% yield) as a white powder.

reactant | (R)-8-(2-chloroethylamino)-1-(5-hydroxyhexyl)-3-methylxanthine | 6.4 mmol, 2.2 g | ClCCNC1=NC=2N(C(N(C(C2N1)=O)CCCC[C@@H](C)O)=O)C | C14H22ClN5O3
reactant | triethylamine | 19.2 mmol, 1.94 g | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 12.8 mmol, 1.30 g | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-dimethylaminopyridine | 3.2 mmol, 0.39 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | (R)-1-(5-acetoxyhexyl)-8-(2-chloroethylamino)-3-methylxanthine | 2.2 g, 89% yield | C(C)(=O)O[C@@H](CCCCN1C(=O)N(C=2N=C(NC2C1=O)NCCCl)C)C | C16H24ClN5O4
